US04316994
A mixture of 84.3 g of magnesium carbonate (4MgCO3 .Mg(OH)2.4H2O) and 128 g (1.1 mol) of sodium phenolate was added to a suspension of 189 g (1 mol) of 3-bromo-4-fluoro-toluene and 50 g of copper(I) oxide in 250 ml of isoquinoline at 110° C. The reaction temperature was then increased to 160° C. and the mixture was subsequently stirred at this temperature for 15 hours. Thereafter, the reaction mixture was cooled and filtered. The filtrate was taken up in cyclohexane. The cyclohexane solution was washed with hydrochloric acid and water, dried over sodium sulphate and then concentrated. After distillation of the residue, 170 g (84.1% of theory) of 4-fluoro-3-phenoxy-toluene were obtained in the form of a pale yellow oil of boiling point 105° C./6 mbars.

reactant | magnesium carbonate | 84.3 g | C([O-])([O-])=O.[Mg+2]
reactant | sodium phenolate | 1.1 mol, 128 g | C1(=CC=CC=C1)[O-].[Na+]
reactant | 3-bromo-4-fluoro-toluene | 1 mol, 189 g | BrC=1C=C(C=CC1F)C | C7H6BrF
solvent | isoquinoline | 250 ml | C1=NC=CC2=CC=CC=C12 | C9H7N
catalyst | copper(I) oxide | 50 g | [Cu-]=O
product | 4-fluoro-3-phenoxy-toluene | 170 g, 84.1% | FC1=C(C=C(C=C1)C)OC1=CC=CC=C1 | C13H11FO
